US06822109B2
Preparation of 9-methoxymethyl-9-(dimethylphenylsilyl)oxymethyl-fluorene
1 g of 9-methoxymethyl-9-hydroxymethyl-fluorene (4.2 mmol) was dissolved in 20 ml of dichloromethane. The solution was cooled in ice-water bath, and 1 ml of triethyl amine (7 mmol) was added thereto. After stirring for 5 minutes, 1 ml of dimethylphenylsilyl chloride (6.2 mmol) was added drop-wise, and the mixture was stirred for further 2 hours, followed by stirring at room temperature for 1 hour. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the remainder was purified through column chromatography to give 1.44 g of concentrate (yield 92.4%).

reactant | 9-methoxymethyl-9-hydroxymethyl-fluorene | 4.2 mmol, 1 g | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C16H16O2
reactant | triethyl amine | 7 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylphenylsilyl chloride | 6.2 mmol, 1 ml | C[Si](C1=CC=CC=C1)(C)Cl | C8H11ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 9-methoxymethyl-9-(dimethylphenylsilyl)oxymethyl-fluorene | yield 92.4% | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO[Si](C1=CC=CC=C1)(C)C | C24H26O2Si
